US07420066B2
Step 1: Preparation of (2,4-Dichloro-phenyl)-(6-hydroxy-3-trifluoromethyl-benzofuran-2-yl)-methanone
To a solution of 1-(2,4-dihydroxy-phenyl)-2,2,2-trifluoro-ethanone (1.00 g, 4.85 mmol) and 2-chloro-1-(2,4-dichlorophenyl)ethanone (1.08 g, 4.85 mmol, 1.0 eq) in anhydrous N,N-dimethylformamide (10 mL) was added potassium carbonate (1.01 g, 7.28 mmol, 1.5 eq). The reaction mixture was stirred at 90° C. for 16 h. The mixture was cooled to room temperature and then poured into ethyl acetate (100 mL) and water (100 mL). The aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water (2×100 mL), dried over Na2SO4, filtrated, and evaporated in vacuo. The residue was purified by column chromatography eluted with 5% EtOAc/hexane then 30% EtOAc/hexane solution to afford a yellow solid (610 mg, 33.5%) as product. 1H-NMR (CDCl3): δ 7.76 (d, J=8.7 Hz, 1H), 7.52 (d, J=8.5 Hz, 1H), 7.50 (d, J=1.7 Hz, 1H), 7.41 (dd, J=8.1, 1.9 Hz, 1H), 7.01 to 6.95 (m, 2H), 5.49 (s, 1H); LC-MS (MH+=375/377).

reactant | 1-(2,4-dihydroxy-phenyl)-2,2,2-trifluoro-ethanone | 4.85 mmol, 1.00 g | OC1=C(C=CC(=C1)O)C(C(F)(F)F)=O | C8H5F3O3
reactant | 2-chloro-1-(2,4-dichlorophenyl)ethanone | 4.85 mmol, 1.08 g, 1.0 eq | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | potassium carbonate | 7.28 mmol, 1.01 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | (2,4-Dichloro-phenyl)-(6-hydroxy-3-trifluoromethyl-benzofuran-2-yl)-methanone | 610 mg, 33.5% | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C(F)(F)F)C=CC(=C2)O | C16H7Cl2F3O3
